US07232827B2
11.1 Furo[2,3-b]pyridin-3-yl-acetic acid ethyl ester
To a suspension of 0.325 g (8.14 mmol) of sodium hydride (50% suspension in mineral oil) in 8 ml of anhydrous tetrahydrofuran was added 0.1 ml of 1,1,1,3,3,3-hexamethyldisilazane and 1.81 g (8.14 mmol) of triethyl phosphonoacetate (Aldrich) in 4 ml of anhydrous tetrahydrofuran. The resulting mixture was stirred at room temperature for 1 h, cooled at 0° C. and there was added 1 g (7.4 mmol) of furo[2,3-b]pyridin-3-one (prepared according to J. Het. Chem. 1986, 23, 1465–1469). After being stirred at room temperature for 24 h, water was added, the mixture was extracted with dichlomethane. The organic phase was dried and evaporated to give crude product, which was purified by silica gel chromatography, eluting with ethyl acetate/cyclohexane in the proportions 40/60 to give 0.73 g of pure product.

reactant | sodium hydride | 8.14 mmol, 0.325 g | [H-].[Na+]
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 0.1 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | furo[2,3-b]pyridin-3-one | 7.4 mmol, 1 g | O1CC(C=2C1=NC=CC2)=O | C7H5NO2
reactant | water | O | H2O
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | Furo[2,3-b]pyridin-3-yl-acetic acid ethyl ester | 0.73 g | C(C)OC(CC1=COC2=NC=CC=C21)=O | C11H11NO3
